US07166613B2
2,3-Dihydro-4-benzofuranamine
2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline (158 g, 0.59 mol) was added portionwise to a stirred solution of hydrogen bromide in acetic acid (30%, 1.7 L) at room temperature. The reaction was then heated to reflux for 4 h. The reaction mixture was cooled to room temperature, basified to pH 14 with aqueous sodium hydroxide solution (6 N) and extracted with dichloromethane (3×2 L). The organic extracts were combined, dried (magnesium sulphate) and evaporated to give the title compound as an orange oil (78 g, 92%); NMR (400 MHz, CDCl3) δH 2.99 (2H, t, J 8.5 Hz), 3.55 (2H, br s), 4.57 (2H, t, J 8.5 Hz), 6.19 (1H, d, J 7.5 Hz), 6.25 (2H, d, J 7.5 Hz), 6.92 (1H, t, J 8.0 Hz); IR νmax (Nujol)/cm−1 2853, 2610, 1544, 1462, 1262, 1234, 986 and 761.

reactant | 2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline | 0.59 mol, 158 g | OCCC1=C(NC(=O)OC(C)(C)C)C=CC=C1OC | C14H21NO4
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | acetic acid | 1.7 L | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-4-benzofuranamine | 78 g, 92% | O1CCC=2C1=CC=CC2N | C8H9NO
